US05451595
2.0 g of 7-hydroxy-1,2-benzisothiazole are dissolved in 20 ml of THF, and 460 mg of sodium hydride (60%) are added to the mixture at 0° C. When the evolution of gas has ended, 1 ml of allyl bromide is added dropwise, the reaction mixture is stirred for one day at room temperature. Again, 1 ml of allyl bromide and 40 mg of sodium hydride are added, and the mixture is stirred for 2 days under reflux. The reaction mixture is poured into water, rendered basic using 1 N potassium hydroxide solution and extracted using ethyl acetate. The organic phase is washed with saline, dried over sodium sulfate, filtered and concentrated. Silica gel chromatography with ethyl acetate/hexane (1:5) as mobile phase gives 2.0 g of 7-allyloxy-1,2-benzisothiazole; nD20 =1.6039 .

reactant | 7-hydroxy-1,2-benzisothiazole | 2.0 g | OC1=CC=CC=2C=NSC21 | C7H5NOS
reactant | sodium hydride | 460 mg | [H-].[Na+]
reactant | allyl bromide | 1 ml | C(C=C)Br | C3H5Br
reactant | allyl bromide | 1 ml | C(C=C)Br | C3H5Br
reactant | sodium hydride | 40 mg | [H-].[Na+]
reactant | potassium hydroxide | 1 N | [OH-].[K+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 7-allyloxy-1,2-benzisothiazole | 2.0 g | C(C=C)OC1=CC=CC=2C=NSC21 | C10H9NOS
